US07601716B2
(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-((S)-2-pyrrolidin-1-ylmethylpyrrolidin-1-yl)methanone
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with (S)-2-(1-pyrrolidinylmethyl)pyrrolidine as in General Procedure 10 to give the title compound. LCMS: m/z=583.96 (M+H+); retention time=0.58 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | (S)-2-(1-pyrrolidinylmethyl)pyrrolidine | N1(CCCC1)C[C@H]1NCCC1 | C9H18N2
product | (3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-((S)-2-pyrrolidin-1-ylmethylpyrrolidin-1-yl)methanone | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C=CC3)C(=O)N3[C@@H](CCC3)CN3CCCC3)C1)C(F)(F)F | C31H33ClF3N5O
